US06150373
A solution of 0.945 mg (1.75 mmol) of 3-(2-bromophenyl)-3,4-dihydro-1-[4-(tetrahydropyran-2-yloxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one in 10 ml of saturated hydrogen chloride in ethyl acetate was stirred at room temperature for 2 hours. The reaction was diluted with ethyl acetate (10 ml) then washed with water (10 ml) and saturated aqueous sodium bicarbonate (20 ml), dried over magnesium sulfate, filtered and evaporated to give 0.68 g (85%) of 3-(2-bromophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow gum. [Mass spectrum (ESI) MH+ =457].

reactant | 3-(2-bromophenyl)-3,4-dihydro-1-[4-(tetrahydropyran-2-yloxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one | 1.75 mmol, 0.945 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=C(C=C1)COC1OCCCC1)=O | C25H25BrN4O3S
solvent | hydrogen chloride | 10 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-bromophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.68 g, 85% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=C(C=C1)CO)=O | C20H17BrN4O2S
